US06858651B2
A solution of 1.5 mmol trichloromethyl-chloroformate (diphosgene) in 20 ml CH2Cl2 was treated at 0° C. with 3 mmol of 2,4-difluoro-phenol and 3 mmol quinoline and then stirred for 3 h at room temperature. The reaction was then cooled (0° C.) and a solution of 1 mmol [4-(4-Bromo-butoxy)-cyclohexyl]-methyl-amine (privously prepared from trans-[4-(4-Bromo-butoxy)-cyclohexyl]-methyl-amine hydrochloride by extraction with aqueous NaHCO3/EtOAc) and 2.5 mmol pyridine in 3 ml CH2Cl2 was added. The reaction was stirred over night at room temperature, evaporated to give crude trans-[4-(4-Bromo-butoxy)-cyclohexyl]-methyl-carbamic acid 2,4-difluoro-phenyl ester which was used directly in the next step, see Example 12.39-12.44.

reactant | trichloromethyl-chloroformate | 1.5 mmol | ClC(Cl)(Cl)OC(=O)Cl | C2Cl4O2
reactant | 2,4-difluoro-phenol | 3 mmol | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | quinoline | 3 mmol | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | [4-(4-Bromo-butoxy)-cyclohexyl]-methyl-amine | 1 mmol | BrCCCCOC1CCC(CC1)NC | C11H22BrNO
reactant | trans-[4-(4-Bromo-butoxy)-cyclohexyl]-methyl-amine hydrochloride | Cl.BrCCCCO[C@@H]1CC[C@H](CC1)NC
reactant | NaHCO3 EtOAc | C(=O)(O)[O-].[Na+].CCOC(=O)C
reactant | pyridine | 2.5 mmol | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | trans-[4-(4-Bromo-butoxy)-cyclohexyl]-methyl-carbamic acid 2,4-difluoro-phenyl ester | FC1=C(C=CC(=C1)F)OC(N(C)[C@@H]1CC[C@H](CC1)OCCCCBr)=O | C18H24BrF2NO3
